US06797726B1
In 3.0 mL of ethyl acetate is dissolved 0.62 g of N-[5-(2-benzo[b]thiophen-5-ylethoxy)pentyl]-N,N-diethylamine, to which is added 1.1 mL of 3.6 mol/L solution of dry hydrogen chloride in ethyl acetate. The mixture is stirred at ambient temperature for one hour. The reaction mixture is diluted with 5 mL of diisopropyl ether and stirred at ambient temperature for one hour. The deposited crystal is collected by filtration, washed with ethyl acetate and dried to obtain 0.55 g of N-[5-(2-benzo[b]thiophen-5-ylethoxy)pentyl]-N,N-diethylamine hydrochloride.

reactant | N-[5-(2-benzo[b]thiophen-5-ylethoxy)pentyl]-N,N-diethylamine | 0.62 g | S1C2=C(C=C1)C=C(C=C2)CCOCCCCCN(CC)CC | C19H29NOS
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 3.0 mL | C(C)(=O)OCC | C4H8O2
solvent | diisopropyl ether | 5 mL | C(C)(C)OC(C)C | C6H14O
product | N-[5-(2-benzo[b]thiophen-5-ylethoxy)pentyl]-N,N-diethylamine hydrochloride | 0.55 g | Cl.S1C2=C(C=C1)C=C(C=C2)CCOCCCCCN(CC)CC | InChI=1S/C19H29NOS.ClH/c1-3-20(4-2)12-6-5-7-13-21-14-10-17-8-9-19-18(16-17)11-15-22-19;/h8-9,11,15-16H,3-7,10,12-14H2,1-2H3;1H
